US07163936B2
To a solution of 1-allyl 4-tert-butyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate (0.64 g, 2.3 mmol) in methanol (10 ml) was added hydrochloric acid/methanol (10 ml) and the mixture was stirred overnight. Toluene was added thereto and the solvent was removed in vacuo. To the residue were added methanol and toluene, and the solvent was again removed in vacuo. The residue was dissolved in THF (10 ml) and to the solution was added at 0–5° C. a solution of trimethylsilyldiazomethane in hexane (2M, 1.15 ml, 2.3 mmol). Fifteen minutes later 1N hydrochloric acid was added thereto. Ethyl acetate and a saturated aqueous sodium chloride solution were added thereto. The mixture was separated with a separating funnel. The aqueous layer was extracted twice with ethyl acetate. The organic layer was washed twice with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel (20 g) chromatography (hexane/ethyl acetate: 1/6→1/4) to give 1-allyl 4-methyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate (0.31 g)

reactant | 1-allyl 4-tert-butyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate | 2.3 mmol, 0.64 g | C[C@H]1N(CC=C(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C15H23NO4
reactant | hydrochloric acid methanol | 10 ml | Cl.CO
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 2.3 mmol, 2M, 1.15 ml | CCCCCC | C6H14
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 1-allyl 4-methyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate | 0.31 g | C[C@H]1N(CC=C(C1)C(=O)OC)C(=O)OCC=C | C12H17NO4
